US07053107B2
N-(2,5-Dimethyl-2H-pyrazol-3-ylmethyl)-2-[3-(pyrrol-1-yliminomethyl)-1H-indazol-6-ylamino]-benzamide
Prepared in a similar manner to that described for Example 11 in U.S. Pat. No. 6,534,524, issued Mar. 18, 2003, herein incorporated by reference in its entirety for all purposes, except that N-(2,5-Dimethyl-2H-pyrazol-3-ylmethyl)-2-[3-(pyrrol-1-yliminomethyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-6-ylamino]-benzamide was used instead of N-methyl-N-{3-styryl-1-[2-trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-yl}-benzene-1,3-diamine. 1H NMR (DMSO-d6) δ 13.27 (1H, s), 9.72 (1H, s), 9.05 (1H, t, J=5.3 Hz), 8.97 (1H, s), 8.16 (1H, d, J=8.7 Hz), 7.68 (1H, dd, J=8.3, 1.9 Hz), 7.50 (2H, t, J=2.6 Hz), 7.46–7.38 (2H, m), 7.25 (1H, s), 7.05 (1H, dd, J=8.7, 1.9 Hz), 6.91 (1H, t, J=6.80 Hz), 6.20 (2H, t, J=2.3 Hz), 5.91 (1H, s), 4.43 (2H, d, J=5.6 Hz), 3.71 (3H, s), 2.04 (3H, s).

reactant | N-(2,5-Dimethyl-2H-pyrazol-3-ylmethyl)-2-[3-(pyrrol-1-yliminomethyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-6-ylamino]-benzamide | CN1N=C(C=C1CNC(C1=C(C=CC=C1)NC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=NN1C=CC=C1)=O)C | C31H38N8O2Si
reactant | benzene-1,3-diamine | C1(=CC(=CC=C1)N)N | C6H8N2
product | N-(2,5-Dimethyl-2H-pyrazol-3-ylmethyl)-2-[3-(pyrrol-1-yliminomethyl)-1H-indazol-6-ylamino]-benzamide | CN1N=C(C=C1CNC(C1=C(C=CC=C1)NC1=CC=C2C(=NNC2=C1)C=NN1C=CC=C1)=O)C | C25H24N8O
